US04661489
2-(Cyclohexylcarbonyl)-4-oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine
4-Oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine (0.9 g) and triethylamine (1 g) were dissolved in dichloromethane (20 ml), cooled in ice and cyclohexanoyl chloride (0.7 g, 1.1 equiv.) added. The mixture was stirred at room temperature for 3 h, then washed with dilute aqueous hydrochloric acid, followed by dilute aqueous ammonia solution. Evaporation of the dichloromethane gave an oil which was purified by column chromatography (SiO2 /chloroform) and crystallised from ether/40°-60° petroleum ether to give white crystals of the title compound m.p. 92°-3°;

reactant | 4-Oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine | 0.9 g | O=C1CNCC2N1CCOC1=C2C=CC=C1 | C12H14N2O2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | cyclohexanoyl chloride | 0.7 g, 1.1 equiv. | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(Cyclohexylcarbonyl)-4-oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine | C1(CCCCC1)C(=O)N1CC2N(CCOC3=C2C=CC=C3)C(C1)=O | C19H24N2O3
